US07763618B2
Synthesis of HEXANE-1-SULFONIC ACID {5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDIN-2-YL}AMIDE
To a solution of [4-(6-aminopyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone (0.035 g, 0.10 mmol) in pyridine (3 mL) was added hexanesulfonyl chloride (0.022 mL, 0.12 mmol). After heating at 60° C. for 20 h, the mixture was diluted with ethyl acetate (100 mL), washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. Purification by preparative thin layer chromatography afforded the title compound as a white solid (3.8 mg, 8% yield). 1H NMR (300 MHz, CDCl3) δ 7.66, 7.29, 4.08, 3.91, 3.38, 3.27, 3.08, 1.84, 1.35, 1.27, 0.87. MS (ES+) m/z 499.4 (M+1).

reactant | [4-(6-aminopyridin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)-methanone | 0.10 mmol, 0.035 g | NC1=CC=C(C=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3N4O
reactant | hexanesulfonyl chloride | 0.12 mmol, 0.022 mL | C(CCCCC)S(=O)(=O)Cl | C6H13ClO2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | HEXANE-1-SULFONIC ACID {5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDIN-2-YL}AMIDE | 3.8 mg, 8% yield | FC(C1=C(C(=O)N2CCN(CC2)C=2C=CC(=NC2)NS(=O)(=O)CCCCCC)C=CC=C1)(F)F | C23H29F3N4O3S
